US04319916
3-Butyryl-1-methyl-5-(3-trifluoromethylphenyl)-4(1H)-pyridinone
A mixture of 1.6 g. of 1-(3-trifluoromethylphenyl)-2,4-heptanedione and 50 ml. of N,N-dimethylformamide dimethyl acetal was stirred for 3 hours at reflux temperature, and then at ambient temperature overnight. The mixture was evaporated under vacuum to obtain 2.3 g. of a thick dark oil, which was dissolved in 25 ml. of methanol. Five g. of methylamine hydrochloride was added, and the mixture was stirred under reflux for 2 hours and then at ambient temperature overnight. The mixture was then evaporated under vacuum, and the residue was partitioned between diethyl ether and water. The organic layer was dried over magnesium sulfate and evaporated under vacuum to obtain a thick brown oil, which was chromatographed on a 300 g. silica gel column with 2:3 ethyl acetate:dichloromethane. The product-containing fractions were combined, and the product crystallized from the solvent on standing. The product was collected and triturated under hexane to obtain 0.19 g. of the desired product, m.p. 93°-94°. Nmr analysis in DMSOd6 showed peaks at δ7.6-8.3 (m, 6H, aromatic); 3.9 (s, 3H, N--CH3); 3.0-3.2 (t, 2H, COCH2); 1.3-1.9 (m, 2H, CH2CH3); 0.8-1.1 (t, 3H, CH2CH3).

reactant | 1-(3-trifluoromethylphenyl)-2,4-heptanedione | FC(C=1C=C(C=CC1)CC(CC(CCC)=O)=O)(F)F | C14H15F3O2
reactant | N,N-dimethylformamide dimethyl acetal | COC(N(C)C)OC | C5H13NO2
reactant | methylamine hydrochloride | Cl.CN
solvent | methanol | CO | CH4O
product | 3-Butyryl-1-methyl-5-(3-trifluoromethylphenyl)-4(1H)-pyridinone | C(CCC)(=O)C1=CN(C=C(C1=O)C1=CC(=CC=C1)C(F)(F)F)C | C17H16F3NO2
